US05616590
Preparation of N,N-diethyl-3-(N',N'-diethylthiocarbamoyloxy)picolinamide:
258.3 g (1.33 mol) of 3-hydroxy-N,N-diethylpicolinamide are introduced into 1 l of dimethylpropyleneurea and 213.2 ml (1.53 mol) of triethylamine at 0° C., and 222 g (1.464 mol) of diethylthiocarbamoyl chloride are introduced in the form of a solid. After the reaction mixture has been stirred for 2 hours at 0° C., it is poured into 2 l of water and extracted three times using ethyl acetate, the ethyl acetate phases are washed five times using 500 ml of water in each case, and the combined organic phases are dried over Na2SO4 and concentrated in vacuo at 60° C. Recrystallization from Et2O/hexane gives 341 g (83%) of brown crystals, m.p. 70°-72° C.

reactant | 3-hydroxy-N,N-diethylpicolinamide | 1.33 mol, 258.3 g | OC=1C(=NC=CC1)C(=O)N(CC)CC | C10H14N2O2
reactant | dimethylpropyleneurea | 1 l | CN1CCCN(C1=O)C | C6H12N2O
reactant | triethylamine | 1.53 mol, 213.2 ml | C(C)N(CC)CC | C6H15N
reactant | diethylthiocarbamoyl chloride | 1.464 mol, 222 g | C(C)N(C(=S)Cl)CC | C5H10ClNS
solvent | water | 2 l | O | H2O
product | N,N-diethyl-3-(N',N'-diethylthiocarbamoyloxy)picolinamide | 341 g, 83% | C(C)N(C(C1=NC=CC=C1OC(N(CC)CC)=S)=O)CC | C15H23N3O2S
